US06159941
To a mixture of sodium hydride (5.86 g, 60 % dispersion in mineral oil, 0.1415 mol) in dry dimethylsulfoxide (250 ml) was slowly added a solution of N-(pyridin-2-yl)propane-1,3-diamine (20 g, 0.1323 mol) in dry dimethylsulfoxide (50 ml) at room temperature under an atmosphere of nitrogen. The reaction mixture was stirred until gas evolution was ceased. A solution of 4-bromobenzylbromide (36.09 g, 0.1415 mol) in dry dimethylsulfoxide (100 ml) was slowly added at room temperature. The reaction mixture was stirred for 48 h at room temperature. The reaction mixture was poured onto ice water (500 ml) and extracted with ethyl acetate (3×250 ml). The combined organic extracts were washed with water (3×150 ml), dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue (40.56 g) was washed with n-heptane (30 ml) which afforded 36.77 g of crude N-(4-bromobenzyl)-N-(pyridin-2-yl)propane-1,3-diamine. 20 g crude product was purified by column chromatography on silica gel (900 ml) using dichloremethane/methanol/triethylamine 9:0.5:0.5 as eluent affording 13.75 g (70%) of N-(4-bromobenzyl)-N-(pyridin-2-yl)propane-1,3-diamine as an oil.

reactant | sodium hydride | 0.1415 mol, 5.86 g | [H-].[Na+]
reactant | N-(pyridin-2-yl)propane-1,3-diamine | 0.1323 mol, 20 g | N1=C(C=CC=C1)NCCCN | C8H13N3
reactant | 4-bromobenzylbromide | 0.1415 mol, 36.09 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | N-(4-bromobenzyl)-N-(pyridin-2-yl)propane-1,3-diamine | 36.77 g | BrC1=CC=C(CN(CCCN)C2=NC=CC=C2)C=C1 | C15H18BrN3
